US05629406
12(a) (3S)-1-t-Butoxycarbonyl-3-t-butyldimethylsilyloxy-L-prolinol
0.4 ml of formic acid were added to a solution of 800 mg (1.90 mmol) of (2R,3S)-1-t-butoxycarbonyl-2-benzyloxymethyl-3-t-butyldimethylsilyloxypyrrolidine [which had been prepared from 1-t-butoxycarbonyl-D-seline benzyl ether in a similar manner to that described by W. R. Ewing et al. in Heterocycles, 27, 2843 (1988)] in 8 ml of methanol, and the mixture was stirred for 3 hours in the presence of 400 mg of palladium black under an atmosphere of hydrogen. At the end of this time, the catalyst was filtered off, and the filtrate was freed from the solvent by distillation under reduced pressure. The residue was purified by column chromatography through silica gel, using a 6:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 620 mg of the title compound as an oil.

reactant | formic acid | 0.4 ml | C(=O)O | CH2O2
reactant | (2R,3S)-1-t-butoxycarbonyl-2-benzyloxymethyl-3-t-butyldimethylsilyloxypyrrolidine | 1.90 mmol, 800 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)O[Si](C)(C)C(C)(C)C)COCC1=CC=CC=C1 | C23H39NO4Si
solvent | methanol | 8 ml | CO | CH4O
catalyst | palladium black | 400 mg | [Pd] | Pd
product | (3S)-1-t-Butoxycarbonyl-3-t-butyldimethylsilyloxy-L-prolinol | 620 mg | C(C)(C)(C)OC(=O)N1[C@H](CO)[C@H](CC1)O[Si](C)(C)C(C)(C)C | C16H33NO4Si
